* C:\Users\mohammad asfraf\OneDrive\Documents\Lab Work\LT Circuits\VLSI\CMOS_Inv_DC.asc
V1 N001 0 1
V2 N002 0 5
M1 Output N002 N001 N001 PMOS l=350n w=8u
M2 Output N002 0 0 NMOS l=350n w=4u
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\mohammad asfraf\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.include C:\Users\mohammad asfraf\OneDrive\Documents\LTspiceXVII\lib\p35\p35_cmos_models_tt.inc
.dc V2 0 1 1m
.backanno
.end
