* C:\Users\mohammad asfraf\OneDrive\Documents\Lab Work\LT Circuits\VLSI\Propagation_Delay_Calc.asc
M1 vout vin N001 N001 BSS84
M2 vout vin 0 0 BSP89
V1 N001 0 5
V2 vin 0 PULSE(0 5 8n 5n 5n 20n 60n)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\mohammad asfraf\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.include C:\Users\mohammad asfraf\OneDrive\Documents\LTspiceXVII\lib\p35\p35_cmos_models_tt.inc
.meas time1 FIND time WHEN  V(vin)=2.5V RISE=1
.meas time2 FIND time WHEN  V(vout)=2.5V FALL=1
.meas tPHL param time2-time1
.meas time3 FIND time WHEN  V(vin)=2.5V FALL=1
.meas time4 FIND time WHEN  V(vout)=2.5V RISE=1
.meas tLH param time4-time3
.tran 50n
.backanno
.end
